US07282512B2
To a solution of 0.7 g (2.0 mmol) of 2-({1-[(benzyloxy)methyl]cyclobutyl}methyl)-4-phenyl-1,3-thiazole in 15 mL of dichloromethane was added a 1.0 M solution of 2.2 mL (2.2 mmol) of boron tribromide and the contents stirred at room temperature for 16 h. After quenching with 10 mL of methanol, the contents were concentrated under vacuum and the residue was purified by silica gel chromatography using ethyl acetate:hexane (1:9) as the eluent to afford 0.16 g (31%) of {1-[(4-phenyl-1,3-thiazol-2-yl)methyl]cyclobutyl}methanol as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 4.13 (t, J=7 Hz, 1H), 3.66 (d, J=6 Hz, 2H), 3.3 (s, 2H), 2.08-1.94 (m, 6H). GC-MS m/z 260 (M+H).

reactant | 2-({1-[(benzyloxy)methyl]cyclobutyl}methyl)-4-phenyl-1,3-thiazole | 2.0 mmol, 0.7 g | C(C1=CC=CC=C1)OCC1(CCC1)CC=1SC=C(N1)C1=CC=CC=C1 | C22H23NOS
reactant | boron tribromide | 2.2 mmol, 2.2 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | {1-[(4-phenyl-1,3-thiazol-2-yl)methyl]cyclobutyl}methanol | 0.16 g, 31% | C1(=CC=CC=C1)C=1N=C(SC1)CC1(CCC1)CO | C15H17NOS
